US04882330
4-(1-Piperazinyl)benzamide
To 8.0 g (0.04 mole) of 4-(1-piperazinyl)benzonitrile was added, with stirring, 50.0 ml (0.87 mole) of 93% sulfuric acid over a 15 min period. The mixture was stirred overnight and the resulting suspended amide was collected by filtration, rinsed with water, and allowed to air dry. The solid was recrystallized from absolute ethanol to give 1.6 g (20%) of white solid, m.p. 240°-243° C.

reactant | 4-(1-piperazinyl)benzonitrile | 0.04 mole, 8.0 g | N1(CCNCC1)C1=CC=C(C#N)C=C1 | C11H13N3
reactant | sulfuric acid | 0.87 mole, 50.0 ml | S(O)(O)(=O)=O | H2O4S
product | 4-(1-Piperazinyl)benzamide | 1.6 g, 20% | N1(CCNCC1)C1=CC=C(C(=O)N)C=C1 | C11H15N3O
